US06242443B1
a) N-(2-amino-4-(methanesulfonyl)benzenesulfonyl)-N′-isopropylthiourea
A mixture of 2-amino-4-methanesulfonylbenzenesulfonamide (2.5 g), potassium carbonate (1.66 g) and isopropyl isothiocyanate (1.22 g) in 20 ml of dry acetone was heated at 50° C. for 18 h. Then the reaction mixture was evaporated in vacuo and the residue was dissolved in 25 ml of water. Then the solution was adjusted to pH 2 by dropwise addition of 4 M HCl at 0° C. with stirring. After stirring for 2 h the product was filtered off and dried, yielding the title compound as white crystals; m.p. 151-153° C.

reactant | 2-amino-4-methanesulfonylbenzenesulfonamide | 2.5 g | NC1=C(C=CC(=C1)S(=O)(=O)C)S(=O)(=O)N | C7H10N2O4S2
reactant | potassium carbonate | 1.66 g | C([O-])([O-])=O.[K+].[K+]
reactant | isopropyl isothiocyanate | 1.22 g | C(C)(C)N=C=S | C4H7NS
solvent | acetone | 20 ml | CC(=O)C | C3H6O
product | N-(2-amino-4-(methanesulfonyl)benzenesulfonyl)-N′-isopropylthiourea | NC1=C(C=CC(=C1)S(=O)(=O)C)S(=O)(=O)NC(=S)NC(C)C | C11H17N3O4S3
